US06638929B2
A mixture of 0.3 g (0.55 mmol) of 8-(2-chloroethoxy)-4-[3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)phenylamino]-7-methoxybenzo[g]quinoline-3-carbonitrile, 0.32 mL (5.5 mmol) of 1H-1,2,3-triazole and 0.1 g (2.5 mmol) of sodium hydroxide powder in 5 mL of N,N-dimethyl formamide is heated at 80° C. for 4.5 hours, then cooled and poured on to ice. The solid is collected by filtration, washed with water and dried. The two isomers are separated by silica gel chromatography, utilizing a 99:1 to 85:15 gradient of ethyl acetate/methanol. The less polar material, 0.062 g of 4-[3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)phenylamino]-7-methoxy-8-(2-[1,2,3]triazol-2-yl-ethoxy)benzo[g]quinoline-3-carbonitrile is obtained as yellow solid, mp 235-237° C.

reactant | 8-(2-chloroethoxy)-4-[3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)phenylamino]-7-methoxybenzo[g]quinoline-3-carbonitrile | 0.55 mmol, 0.3 g | ClCCOC1=CC2=C(C=C3C(=C(C=NC3=C2)C#N)NC2=CC(=C(C=C2)SC=2N(C=CN2)C)Cl)C=C1OC | C27H21Cl2N5O2S
reactant | 1H-1,2,3-triazole | 5.5 mmol, 0.32 mL | N1N=NC=C1 | C2H3N3
reactant | sodium hydroxide | 2.5 mmol, 0.1 g | [OH-].[Na+]
solvent | N,N-dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)phenylamino]-7-methoxy-8-(2-[1,2,3]triazol-2-yl-ethoxy)benzo[g]quinoline-3-carbonitrile | 0.062 g | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC3=C(C=C12)C=C(C(=C3)OCCN3N=CC=N3)OC)C#N | C29H23ClN8O2S
